US04526960
A solution of 10.0 g of (S)-3'-acetyl-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] in 250 ml of dry tetrahydrofuran was cooled to -78° C. and a solution of 1.12 g of lithium aluminium hydride in 75 ml of diethyl ether was added over a period of a few minutes. The mixture was stirred at -78° C. under nitrogen for 30 minutes and then a further 1.12 g of lithium aluminium hydride in 75 ml of diethyl ether were added. After a total reaction time of 45 minutes, 250 ml of 2M hydrochloric acid were added cautiously to the mixture and then 750 ml of water were added. The mixture was extracted with three 600 ml portions of dichloromethane and the combined extracts were washed with 300 ml of water, dried over magnesium sulphate and evaporated to give (3'S)-1',2',3',4'-tetrahydro-3'-hydroxy-3'-[1-(hydroxy)ethyl]-5', 8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] is a mixture of isomers in the form of a colourless gum which was used without further purification.

reactant | (S)-3'-acetyl-1',2',3',4'-tetrahydro-3'-hydroxy-5',8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | 10.0 g | C(C)(=O)[C@]1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)O | C16H20O4S2
reactant | lithium aluminium hydride | 1.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminium hydride | 1.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 2M, 250 ml | Cl | ClH
reactant | water | 750 ml | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | (3'S)-1',2',3',4'-tetrahydro-3'-hydroxy-3'-[1-(hydroxy)ethyl]-5', 8'-dimethoxyspiro[1,3-dithiolane-2,1'-naphthalene] | O[C@@]1(CC2(C3=C(C=CC(=C3C1)OC)OC)SCCS2)C(C)O | C16H22O4S2
